US07326799B2
Synthesis of (2S,3S)-N-[(1S,2S)-2-hydroxycyclohexane-1-yl]-3-azido-2-hydroxyheptanamide (Compound of the Formula VI)
30 ml of a methanol suspension containing 1.64 g (7 mmol) of (2S)-trans-N-[(1S,2S)-2-hydroxycyclohexane-1-yl]-3-butyloxiranecarboxamide, 910 mg (14 mmol) of sodium azide and 868 mg (7.2 mmol) of anhydrous magnesium sulfate was refluxed for 5 hours. After the temperature of the reaction mixture was returned to room temperature, the reaction mixture was poured into 300 ml of water and the resulting mixture was stirred for 2 hours. The resulting crystals were collected by filtration and washed with water, and dried to obtain 1.45 g (Yield: 73%) of the title compound.

reactant | methanol | 30 ml | CO | CH4O
reactant | (2S)-trans-N-[(1S,2S)-2-hydroxycyclohexane-1-yl]-3-butyloxiranecarboxamide | 7 mmol, 1.64 g | O[C@@H]1[C@H](CCCC1)NC(=O)[C@H]1O[C@@H]1CCCC | C13H23NO3
reactant | sodium azide | 14 mmol, 910 mg | [N-]=[N+]=[N-].[Na+]
reactant | magnesium sulfate | 7.2 mmol, 868 mg | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | water | 300 ml | O | H2O
product | (2S,3S)-N-[(1S,2S)-2-hydroxycyclohexane-1-yl]-3-azido-2-hydroxyheptanamide | 1.45 g, Yield: 73% | O[C@@H]1[C@H](CCCC1)NC([C@H]([C@H](CCCC)N=[N+]=[N-])O)=O | C13H24N4O3
